US09382265B2
(d) (3R,3aS)-7-((R)-4-(t-butyldiphenylsiloxy)-2-oxopiperidin-1-yl)-3-(hydroxymethyl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one
Compound (3R,3 aS)-3-((t-butyldimethylsiloxy)methyl)-7-((R)-4-(t-butyldiphenylsiloxy)-2-oxopiperidin-1-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1(3H)-one (0.78 g, 1.135 mmol) was dissolved in THF. A solution of BCl3 in dichloromethane (1M, 6.81 ml, 6.81 mmol) was added, stirred at room temperature for 24 h, and dried by spinning. Column chromatography afforded pale yellow solid 0.56 g, yield 86.0%.

reactant | (3R,3 aS)-3-((t-butyldimethylsiloxy)methyl)-7-((R)-4-(t-butyldiphenylsiloxy)-2-oxopiperidin-1-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1(3H)-one | 1.135 mmol, 0.78 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(C[C@@H](CC3)O[Si](C3=CC=CC=C3)(C3=CC=CC=C3)C(C)(C)C)=O)=O | C38H50N2O6Si2
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
reactant | dichloromethane | 6.81 mmol, 1M, 6.81 ml | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | (3R,3aS)-7-((R)-4-(t-butyldiphenylsiloxy)-2-oxopiperidin-1-yl)-3-(hydroxymethyl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one | 0.56 g, yield 86.0% | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)[C@H]1CC(N(CC1)C=1C=CC2=C(OC[C@@H]3N2C(O[C@H]3CO)=O)C1)=O | C32H36N2O6Si
